US08466282B2
6-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{[({4-fluoro-2-[(4-methoxybutyl)amino]phenyl}amino)(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (294 mg) was dissolved in acetic acid (5 ml), and the mixture was stirred at 80° C. for 3 days. The reaction mixture was cooled to room temperature, 4M hydrogen chloride-ethyl acetate (5 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-methanol (85:15) was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate (1 ml) was added, and the mixture was concentrated again to give the object product (113 mg).

reactant | tert-Butyl (3S,5R)-3-{[({4-fluoro-2-[(4-methoxybutyl)amino]phenyl}amino)(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 294 mg | FC1=CC(=C(C=C1)NC(C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)=O)NCCCCOC | C32H50FN5O7
reactant | hydrogen chloride-ethyl acetate | 4M, 5 ml | C(C)(=O)OCC.Cl
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 6-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 113 mg | Cl.Cl.FC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C)CCCCOC)C1 | InChI=1S/C27H40FN5O4.2ClH/c1-19(2)18-33(22-14-20(16-29-17-22)26(34)31-9-12-37-13-10-31)27(35)25-30-23-7-6-21(28)15-24(23)32(25)8-4-5-11-36-3;;/h6-7,15,19-20,22,29H,4-5,8-14,16-18H2,1-3H3;2*1H/t20-,22+;;/m1../s1
